US07005431B2
f) 6,2′-Difluoro-4′-hydroxy-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]biphenyl-2-carbonitrile
A solution of 6,2′-difluoro-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]-4′-methoxybiphenyl-2-carbonitrile (0.18 g, 0.43 mmol) dissolved in anhydrous dichloromethane (10 ml) was cooled to −60° C. under nitrogen. Boron tribromide (2 M solution in dichloromethane, 1.28 ml, 2.57 mmol) was added with stirring. After 0.5 h the cooling bath was removed and the mixture was allowed to stir at room temperature for 4 h. Methanol (2 ml) was added and the mixture was shaken with 2 N NaOH (10 ml). Following neutralisation of the aqueous layer with 3 N HCl the solution was extracted with EtOAc (3×50 ml), dried (Na2SO4), filtered and evaporated to dryness. The residue was purified by flash column chromatography (silica gel, EtOAc) and crystallised from dichloromethane to give 28 mg (16%) of the title compound: 1H NMR (360 MHz, CDCl3) δ 1.70 (6H, s), 3.38 (1H, br s), 3.96 (3H, s), 7.38–7.49 (3H, m), 7.59–7.61 (1H, dd, J 0.9, 7.4), 8.10 (1H, d, J 8.0) 8.52 (1H, s), 8.71 (1H, s), 8.90 (1H, s); MS (ES+) m/z 408 [M+H]+.

reactant | 6,2′-difluoro-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]-4′-methoxybiphenyl-2-carbonitrile | 0.43 mmol, 0.18 g | FC=1C=CC=C(C1C1=C(C=C(C(=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O)OC)F)C#N | C22H17F2N5O2
reactant | Boron tribromide | 2.57 mmol, 2 M, 1.28 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6,2′-Difluoro-4′-hydroxy-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]biphenyl-2-carbonitrile | 28 mg, 16% | FC=1C=CC=C(C1C1=C(C=C(C(=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O)O)F)C#N | C21H15F2N5O2
